2153-02-15 09:55:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hemodynamically stable since arrival in the MICU
   Growing 2/2 bottles GPCs from ED
   24 Hour Events:
 INVASIVE VENTILATION - START [**2153-2-15**] 12:18 AM
 MULTI LUMEN - START [**2153-2-15**] 01:08 AM
 ARTERIAL LINE - START [**2153-2-15**] 01:09 AM
 EKG - At [**2153-2-15**] 02:35 AM
 NASAL SWAB - At [**2153-2-15**] 02:35 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-15**] 02:22 AM
   Gentamicin - [**2153-2-15**] 06:20 AM
   Cefipime - [**2153-2-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-15**] 02:26 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-2-15**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 93 (83 - 93) bpm
   BP: 100/56(69) {94/51(64) - 107/60(76)} mmHg
   RR: 30 (25 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (12 - 42)mmHg
   Total In:
                                                                  7,440 mL
   PO:
   TF:
   IVF:
                                                                  1,541 mL
   Blood products:
                                                                    899 mL
   Total out:
                                                                      0 mL
                                                                    899 mL
   Urine:
                                                                    214 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  6,541 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/26/161/19/-4
   Ve: 14.7 L/min
   PaO2 / FiO2: 403
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, Jaundice, splinter hemorrhages on fingernail beds
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   36 K/uL
   179 mg/dL
   1.4 mg/dL
   19 mEq/L
   5.3 mEq/L
   43 mg/dL
   105 mEq/L
   136 mEq/L
   26.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2153-2-14**]  09:59 PM
                             [**2153-2-14**]  10:50 PM
                             [**2153-2-15**]  01:10 AM
                             [**2153-2-15**]  01:21 AM
                             [**2153-2-15**]  06:05 AM
                             [**2153-2-15**]  06:32 AM
   WBC
   7.4
   5.7
   Hct
   28.3
   26.7
   Plt
   29
   25
   36
   Cr
   1.1
   1.4
   TropT
   0.25
   TCO2
   21
   20
   18
   Glucose
   175
   179
   Other labs: PT / PTT / INR:18.6/32.7/1.7, CK / CKMB /
   Troponin-T:168//0.25, ALT / AST:43/116, Alk Phos / T Bili:94/3.3,
   Fibrinogen:166 mg/dL, Lactic Acid:6.0 mmol/L, LDH:996 IU/L, Ca++:7.4
   mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 SUBARACHNOID HEMORRHAGE (SAH)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   51 man with what appears to be metastatic head and neck ca with mets to
   lungs, found down. CT head revealed SAH. DIC with plt count 7, DDimer
   >21,000. Sepsis. Not requiring pressors. Hep C. Cirrhosis. Drug user.
   Need to r/o endocarditis. Resp failure, intubated in ED. CT showed
   splenic and renal infarcts. Intubated and easy to ventilate.
   GPC sepsis: Presentation with splinter hemorhages, splenic infarcts,
   GPC bactermia c/w endocarditis.  Will get surface TTE as well.  Will
   hold on TEE for moment given ongoing uncertainty about SDH and
   preferen\[**Last Name (un) **] to avoid spikes in BP.  Lactates trending down
   Respiratory Failure: The patient's high RSBI [**12-26**] high respiratory rate
   is not all due to metabolic acidosis - there is a component of primary
   respiratory alkalosis.  MS remains poor as well.
   DIC. Given SDH, will continue to give cryo (fibrinogen > 100), FFP (INR
   < 1.4 if possible), platelets ( >20K) per neurosurgical recs
   SDH: Repeat head CT in 24 hrs.
   Renal Failure: Cr trending up --> cont to trend
   Will try to set up family meeting today.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill
   ------ Protected Section ------
   Family meeting held with pt
s ex-wife [**Name (NI) **] (who is health care proxy)
   and her daughter.  Dr. [**Last Name (STitle) 6238**] (ICU resident) also present.  Updated
   family on patient
s condition.
   Case also discussed with ID consult team.  Given high risk of mycotic
   aneurysm, will pursue CTA vs. angiogram of the brain
 will discuss dye
   load required with radiology before deciding which study given the
   patient
s renal failure.
   Patient is critically ill.  Time spent 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2153-2-15**] 18:25 ------

2153-02-16 07:19:00 Physician Resident Progress Note
Chief Complaint: 51 year old male with h/o hepatitis C and head and
   neck CA currently receiving chemo and radiation was found by his sister
   today to be confused and complaining of chest pain, and found to have
   multiple infracts and labs consistent with DIC.
   24 Hour Events:
 BLOOD CULTURED - At [**2153-2-16**] 05:36 AM
 FEVER - 101.9
F - [**2153-2-15**] 08:00 PM
   BCx from [**Hospital1 872**] grew GPC in clusters in 2 bottles. Need to call after
   10am tomorrow to check speciation. [**Hospital1 872**] micro: [**Telephone/Fax (1) 14180**].
   ID was concerned about the possibility of mycotic aneurysm, and wanted
   CTA or angiogram. Given elevated Creatinine, CTA was ordered. Pt was
   given Mucomyst, Bicarb before and after. No obvious mycotic aneurysm on
   CTA and subdural hematome appears stable. ID recs: cover with vanco and
   check cultures [**Hospital1 7**]
   Pt noted to be hyperventalating when off propofol.
   Gave 2units FFP
   RUQ U/S: enlarged liver but no ductal [**Name8 (MD) 7220**]
   RN: [**Doctor Last Name **]
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2153-2-15**] 06:20 AM
   Cefipime - [**2153-2-15**] 08:00 AM
   Vancomycin - [**2153-2-15**] 08:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-15**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.1
C (100.5
   HR: 97 (86 - 102) bpm
   BP: 120/62(78) {94/50(64) - 127/70(87)} mmHg
   RR: 31 (27 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (2 - 18)mmHg
   Total In:
                                                                  8,641 mL
                                                                    735 mL
   PO:
   TF:
   IVF:
                                                                  2,742 mL
                                                                    435 mL
   Blood products:
                                                                    899 mL
                                                                    300 mL
   Total out:
                                                                  1,569 mL
                                                                    520 mL
   Urine:
                                                                    884 mL
                                                                    520 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                  7,072 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 0 cmH2O
   SpO2: 98%
   ABG: 7.56/29/140/21/5
   Ve: 18.4 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Gen: intubated, NAD
   Cardiac: RRR, III/VI SEM L and RUSB
   Lungs: coarse anteriorly, , no wheezes
   Extremities: osler
s nodes, [**Last Name (un) **] lesions, 1+ edema bilaterally upper
   and lower extremities
   Labs / Radiology
   15 K/uL
   9.0 g/dL
   185 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   63 mg/dL
   108 mEq/L
   137 mEq/L
   26.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2153-2-14**]  10:50 PM
                             [**2153-2-15**]  01:10 AM
                             [**2153-2-15**]  01:21 AM
                             [**2153-2-15**]  06:05 AM
                             [**2153-2-15**]  06:32 AM
                             [**2153-2-15**]  12:40 PM
                             [**2153-2-15**]  03:03 PM
                             [**2153-2-15**]  03:47 PM
                             [**2153-2-16**]  04:44 AM
                             [**2153-2-16**]  05:05 AM
   WBC
   7.4
   5.7
   6.2
   6.1
   Hct
   28.3
   26.7
   27.9
   26.8
   Plt
   29
   25
   36
   23
   15
   Cr
   1.1
   1.4
   1.4
   1.5
   TropT
   0.25
   0.22
   0.37
   TCO2
   20
   18
   24
   20
   27
   Glucose
   175
   179
   161
   185
   Other labs: PT / PTT / INR:18.6/30.9/1.7, CK / CKMB /
   Troponin-T:105/24/0.37, ALT / AST:45/83, Alk Phos / T Bili:129/4.1,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:148 mg/dL, Lactic Acid:3.0 mmol/L, LDH:574 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
                                                                [**2153-2-16**]
                                                                    05:05a
   _______________________________________________________________________
                                     pH
                                    7.56
                                    pCO2
                                     29
                                     pO2
                                     140
                                    HCO3
                                     27
                                   BaseXS
                                      5
   Type:Art
   Lactate:3.0
   O2Sat: 98
   IMAGING:
   CXR: poorer inspiratory effort, Left lung considerably more hazy, LLL
   increased density, ? consolidation
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infracts and labs consistent with DIC.
   # Endocarditis: confirmed on echo meeting Duke Criteria.
    - ID consulting, recs appreciated
    - consult CT surgery
    - continue vanc
    - blood cx [**Hospital1 7**]
    - follow up speciation with OSH
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli. Given history of IV drug use per report,
   there is concern for endocarditis. Blood pressures have been maitained
   with fluids only. CVP at 12 and lactate improving which implies
   improved perfusion.
   - Continue vanco
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate to document improvement
   - Follow up culture data here and at [**Hospital1 872**]
   - RUQ u/s to evalute for cholangitis
 can defer for now
   # Alkalosis: respiratory alkalosis, outbreathing the vent
                                     pH
                                    7.56
                                    pCO2
                                     29
                                     pO2
                                     140
                                    HCO3
                                     27
                                   BaseXS
                                      5
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs
   - Cryo if fibrinogen less than 100
   # SAH: Unclear of spontaneous or in the setting of fall. Neuro exam
   nonfocal, and CT unchanged between here at OSH. Repeat imaging
   yesterday showing continued interval slight decreae in density of SAH
   since earlier in the day. No aneursym seen but final pending reformats.
   [**Doctor Last Name 898**] 12a [**2153-2-15**].
   - Appreciate Neurosurgery input
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   - Q1H neuro checks
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue AC ventilation
   - Propafol as needed for sedation, currently on hold
   - HOB evelaution, mouth care
   # NSTEMI: Elevated troponin in the setting of distress. Likely due to
   SAH and hemolysis. EKG unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up in AM with outpatient oncologist
   # Hep C: Unknown baseline. Will attempt to obtain records tommorow.
   # FEN: NS 125 cc/her, replete electrolytes, regular diet
   # Prophylaxis: no sqh given dic, IV ppi
   # Access: aline, IJ
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-16 09:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2153-2-15**] 10:45 AM
   liver/ gallbladder
 BLOOD CULTURED - At [**2153-2-16**] 05:36 AM
 FEVER - 101.9
F - [**2153-2-15**] 08:00 PM
   BCx from [**Hospital1 872**] grew GPC in clusters in 2 bottles. Need to call after
   10am tomorrow to check speciation. [**Hospital1 872**] micro: [**Telephone/Fax (1) 14180**].
   ID was concerned about the possibility of mycotic aneurysm, and wanted
   CTA or angiogram. Given elevated Creatinine, CTA was ordered. Pt was
   given Mucomyst, Bicarb before and after. No obvious mycotic aneurysm on
   CTA and subdural hematome appears stable. ID recs: cover with vanco and
   check cultures [**Hospital1 7**]
   Pt noted to be hyperventalating when off propofol.
   Gave 2units FFP
   RUQ U/S: enlarged liver but no ductal dilitation
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2153-2-15**] 06:20 AM
   Cefipime - [**2153-2-15**] 08:00 AM
   Vancomycin - [**2153-2-15**] 08:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-15**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-16**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.1
C (100.5
   HR: 105 (88 - 105) bpm
   BP: 129/61(80) {100/50(67) - 129/70(87)} mmHg
   RR: 31 (27 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 15 (2 - 18)mmHg
   Total In:
                                                                  8,641 mL
                                                                    735 mL
   PO:
   TF:
   IVF:
                                                                  2,742 mL
                                                                    435 mL
   Blood products:
                                                                    899 mL
                                                                    300 mL
   Total out:
                                                                  1,569 mL
                                                                    520 mL
   Urine:
                                                                    884 mL
                                                                    520 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                  7,072 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 560 (560 - 560) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: 7.56/29/140/21/5
   Ve: 15.5 L/min
   PaO2 / FiO2: 350
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   15 K/uL
   9.0 g/dL
   185 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   63 mg/dL
   108 mEq/L
   137 mEq/L
   26.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2153-2-14**]  10:50 PM
                             [**2153-2-15**]  01:10 AM
                             [**2153-2-15**]  01:21 AM
                             [**2153-2-15**]  06:05 AM
                             [**2153-2-15**]  06:32 AM
                             [**2153-2-15**]  12:40 PM
                             [**2153-2-15**]  03:03 PM
                             [**2153-2-15**]  03:47 PM
                             [**2153-2-16**]  04:44 AM
                             [**2153-2-16**]  05:05 AM
   WBC
   7.4
   5.7
   6.2
   6.1
   Hct
   28.3
   26.7
   27.9
   26.8
   Plt
   29
   25
   36
   23
   15
   Cr
   1.1
   1.4
   1.4
   1.5
   TropT
   0.25
   0.22
   0.37
   TCO2
   20
   18
   24
   20
   27
   Glucose
   175
   179
   161
   185
   Other labs: PT / PTT / INR:18.6/30.9/1.7, CK / CKMB /
   Troponin-T:105/24/0.37, ALT / AST:45/83, Alk Phos / T Bili:129/4.1,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:127 mg/dL, Lactic Acid:3.0 mmol/L, LDH:574 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-16 15:37:00 Physician Attending Progress Note
Chief Complaint: Endocarditis, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains unarousable off sedation this AM
   24 Hour Events:
 ULTRASOUND - At [**2153-2-15**] 10:45 AM
   liver/ gallbladder
 BLOOD CULTURED - At [**2153-2-16**] 05:36 AM
 FEVER - 101.9
F - [**2153-2-15**] 08:00 PM
   CTA brain overnight - decreased SAH, no aneurysms seen (prelim)
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2153-2-15**] 06:20 AM
   Cefipime - [**2153-2-15**] 08:00 AM
   Vancomycin - [**2153-2-16**] 11:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-15**] 04:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2153-2-16**] 03:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 94 (88 - 106) bpm
   BP: 121/65(82) {100/50(67) - 132/70(87)} mmHg
   RR: 26 (23 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 12 (2 - 18)mmHg
   Total In:
                                                                  8,641 mL
                                                                  1,637 mL
   PO:
   TF:
   IVF:
                                                                  2,742 mL
                                                                    835 mL
   Blood products:
                                                                    899 mL
                                                                    802 mL
   Total out:
                                                                  1,569 mL
                                                                    720 mL
   Urine:
                                                                    884 mL
                                                                    720 mL
   NG:
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                  7,072 mL
                                                                    917 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 593 (560 - 593) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.52/31/150/21/3
   Ve: 17.5 L/min
   PaO2 / FiO2: 375
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, + palmar [**Last Name (un) **] lesions, + splinter hemorrhages
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   30 K/uL
   185 mg/dL
   1.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   63 mg/dL
   108 mEq/L
   137 mEq/L
   25.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2153-2-15**]  01:21 AM
                             [**2153-2-15**]  06:05 AM
                             [**2153-2-15**]  06:32 AM
                             [**2153-2-15**]  12:40 PM
                             [**2153-2-15**]  03:03 PM
                             [**2153-2-15**]  03:47 PM
                             [**2153-2-16**]  04:44 AM
                             [**2153-2-16**]  05:05 AM
                             [**2153-2-16**]  12:26 PM
                             [**2153-2-16**]  12:47 PM
   WBC
   5.7
   6.2
   6.1
   7.0
   Hct
   26.7
   27.9
   26.8
   25.6
   Plt
   36
   23
   15
   30
   Cr
   1.4
   1.4
   1.5
   TropT
   0.22
   0.37
   TCO2
   20
   18
   24
   20
   27
   26
   Glucose
   179
   161
   185
   Other labs: PT / PTT / INR:18.4/30.6/1.7, CK / CKMB /
   Troponin-T:105/24/0.37, ALT / AST:45/83, Alk Phos / T Bili:129/4.3,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:142 mg/dL, Lactic Acid:3.0 mmol/L, LDH:582 IU/L, Ca++:7.1
   mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 SUBARACHNOID HEMORRHAGE (SAH)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   51 man with h/o head and neck CA with SAH and endocarditis with
   multiple foci of septic emboli.  Aortic/Tricuspid vegetations.  Unclear
   if lung lesions represent septic emboli or recurrence of previous
   cancer.
   Endocarditis: Cont vanc/gent.  Appreciate ongoing ID input.  Awaiting
   speciation - would be preferred to switch to oxacillin if MSSA.  CTA
   without evidence of mycotic aneurysms
   Respiratory Failure: Ongoing respiratory alkalosis - probable
   combination of fever, pain, possible liver disease, possible opiate
   withdrawal.  Will switch to PSV and allow him to wake up more off of
   sedation.
   SDH: transfuse platelets to keep plts > 30, INR < 1.7, fibrinogen >
   100.
   Renal Failure:Cr continues to slowly trend upwar - there is CT evidence
   of septic embolic involvement of the kidney.  Con to follow.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: [**Name (NI) 434**] HCP (ex-wife, [**Doctor First Name **] present on ICU rounds
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2153-02-17 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2153-2-16**] 10:15 AM
 FEVER - 102.3
F - [**2153-2-17**] 12:00 AM
   - OSH/[**Hospital1 872**] micro cultures growing staph aureus, will get sensitivity
   data tomorrow so need to call then. [**Telephone/Fax (1) 14180**]
   - Cardiac [**Doctor First Name 213**] recs: Pt currently not a candidate for heart operation
   due to SAH. Will re-evaluate if condition improves. If he undergoes
   cardiac surgery in future will need cardiac catheterization, EKG,
   HbA1c, dental clearance (panorex and dental consult), neurosurgery
   clearance for surgery due to heparin load in OR ~50,000U)
   - gave some more FFP, held off on blood
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2153-2-15**] 06:20 AM
   Cefipime - [**2153-2-15**] 08:00 AM
   Vancomycin - [**2153-2-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-16**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-17**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.9
C (102.1
   HR: 102 (87 - 106) bpm
   BP: 147/76(98) {103/52(67) - 147/76(98)} mmHg
   RR: 27 (23 - 35) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (8 - 15)mmHg
   Total In:
                                                                  3,374 mL
                                                                    311 mL
   PO:
   TF:
   IVF:
                                                                  2,285 mL
                                                                     43 mL
   Blood products:
                                                                  1,089 mL
                                                                    219 mL
   Total out:
                                                                  1,355 mL
                                                                    515 mL
   Urine:
                                                                  1,355 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,019 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 553 (553 - 623) mL
   PS : 20 cmH2O
   RR (Set): 16
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.55/30/113/21/5
   Ve: 17.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Gen: intubated, NAD
   Cardiac: RRR, III/VI SEM L and RUSB
   Lungs: coarse anteriorly, , no wheezes
   Extremities: osler
s nodes, [**Last Name (un) **] lesions, 1+ edema bilaterally upper
   and lower extremities
   Labs / Radiology
   32 K/uL
   9.0 g/dL
   169 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   76 mg/dL
   111 mEq/L
   142 mEq/L
   26.3 %
   8.1 K/uL
        [image002.jpg]
                             [**2153-2-15**]  12:40 PM
                             [**2153-2-15**]  03:03 PM
                             [**2153-2-15**]  03:47 PM
                             [**2153-2-16**]  04:44 AM
                             [**2153-2-16**]  05:05 AM
                             [**2153-2-16**]  12:26 PM
                             [**2153-2-16**]  12:47 PM
                             [**2153-2-16**]  07:32 PM
                             [**2153-2-17**]  03:25 AM
                             [**2153-2-17**]  03:45 AM
   WBC
   6.2
   6.1
   7.0
   5.9
   8.1
   Hct
   27.9
   26.8
   25.6
   24.6
   26.3
   Plt
   23
   15
   30
   46
   32
   Cr
   1.4
   1.5
   1.7
   TropT
   0.37
   TCO2
   24
   20
   27
   26
   27
   Glucose
   161
   185
   169
   Other labs: PT / PTT / INR:19.6/31.4/1.8, CK / CKMB /
   Troponin-T:105/24/0.37, ALT / AST:45/83, Alk Phos / T Bili:129/4.3,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:144 mg/dL, Lactic Acid:2.3 mmol/L, LDH:588 IU/L, Ca++:7.1
   mg/dL, Mg++:2.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infracts and labs consistent with DIC.
   # Endocarditis: confirmed on echo meeting Duke Criteria.
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - continue [**Year (4 digits) **]
    - blood cx qday
    - follow up speciation of all cultures
    - discuss nafcillin desensitization with ID
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli. Given history of IV drug use per report,
   there is concern for endocarditis. Blood pressures have been maintained
   with fluids only. CVP at 12 and lactate improving which implies
   improved perfusion.
   - Continue vanco; possible nafcillin desensitization as above
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate to document improvement
   - Follow up culture data here and at [**Hospital1 872**]
   # Alkalosis: respiratory alkalosis, still overbreathing the vent, pCO2
   stable.  Unable to tolerate RSBI.  Potentially component of opioid
   withdrawal
 unclear when he stopped methadone
 up to 1 week without.
    - continue sedation
    - consider decreasing tidal volume
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs
   - Cryo if fibrinogen less than 100
   # SAH: Unclear of spontaneous or in the setting of fall. Neuro exam
   nonfocal, and CT unchanged between here at OSH. Repeat imaging
   yesterday showing continued interval slight decrease in density of SAH
   since earlier in the day. No aneursym seen but final pending reformats.
   [**Doctor Last Name 898**] 12a [**2153-2-15**].
   - Appreciate Neurosurgery input
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   - Q2H neuro checks
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue AC ventilation
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI: Elevated troponin in the setting of distress. Likely due to
   SAH and hemolysis. EKG unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Hep C: Unknown baseline. Will attempt to obtain records tommorow.
   # FEN: NS 125 cc/hr, replete electrolytes, regular diet
   # Prophylaxis: no sqh given dic, IV ppi
   # Access: aline, IJ
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: OSH confirmed Staph bacteremia.  Received FFP.
   Tm102.3, P 80-106, BP100-150/  RR22-35
   PS20/8 TV 530s RR 30 FiO2 40% sats 96%
   I/O 3.3/2.3 out
   Exam notable for being responsive to sternal rub and withdrawing to all
   4
s off of propofol.  [**1-27**] SM.  Decreased BS at bases. 2+ edema
   throughout.  Stigmata of septic emboli.
   Hct 26.3 Plt 32, from 46.
   Chem-7 with bicarb of 21, Cr 1.7 (trending up)
   Tbili up to 4.3
   INR 1.2 down from 1.7 after
   Lactate 2.3 (trending down)
   7.55/30/113   from 7.52/31
   [**Month/Day (4) 339**] level 36
   Meds include: [**Month/Day (4) 339**] (held), Propofol, RISS, acetylcysteine, pantoprozole
   51 y/o with h/o IVDU with staph endocarditis and septic emboli with
   subdural / subarachnoid hemorrhage.
   Agree with plan to [**Last Name (LF) 339**], [**First Name3 (LF) **] discuss potential desensitization for
   nafcillin if we confirm MSSA.  Not a CT surgical candidate currently
   due to subarachnoid hemorrhage.
   Continue support with FFP and Platelets per recs from neuro exam.
   Profound respiratory alkalosis seems likely centrally driven, though
   consider pain / agitation.  Remains on vent due to mental status and
   minute ventilation requirements.  ARF and rising LFTs
 will need to
   follow closely.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2153-2-17**] 15:22 ------

2153-02-18 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.1
F - [**2153-2-17**] 02:00 PM
   Pt. febrile for large part of the day yesterday.  Given tylenol and
   cooling blanket.  Continues to hyperventilate whether on/off propofol.
   ID recs to stay on current regimen and if he continues to spike would
   consider CT to assess for abscess formation.  Family at bedside.
   Called OSH for culture data this morning and staph aureus in blood is
   MSSA, resistant only to clinda/erythro/PCN.
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2153-2-15**] 08:00 AM
   Vancomycin - [**2153-2-16**] 08:00 PM
   Infusions:
   Other ICU medications:
   Propofol - [**2153-2-17**] 08:36 AM
   Fentanyl - [**2153-2-17**] 10:15 AM
   Pantoprazole (Protonix) - [**2153-2-17**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-18**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.5
C (97.7
   HR: 90 (78 - 106) bpm
   BP: 147/76(101) {99/53(68) - 162/84(111)} mmHg
   RR: 31 (25 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 7 (7 - 19)mmHg
   Total In:
                                                                  3,378 mL
                                                                    428 mL
   PO:
   TF:
                                                                     64 mL
   IVF:
                                                                  2,207 mL
                                                                     63 mL
   Blood products:
                                                                    981 mL
                                                                    302 mL
   Total out:
                                                                  1,785 mL
                                                                    610 mL
   Urine:
                                                                  1,785 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,593 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (439 - 609) mL
   PS : 16 cmH2O
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.52/29/105/22/2
   Ve: 21.3 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Gen:  NAD, off propofol, alert
   Pulm:  coarse anteriorly, no wheezes
   CV:  RRR, 2/6 systolic murmur at LSB
   Abd:  grimaces to palpation, soft, flexiseal in place
   Peripheral Vascular: pulses intact, minimal edema
   Skin:  warm, dry
   Neurologic: alert, pt. moves toes to command, withdraws from painful
   stimuli all 4 extremities, PERRL
   Labs / Radiology
   74 K/uL
   8.4 g/dL
   188 mg/dL
   1.6 mg/dL
   22 mEq/L
   3.3 mEq/L
   87 mg/dL
   113 mEq/L
   147 mEq/L
   25.3 %
   5.8 K/uL
        [image002.jpg]
                             [**2153-2-16**]  05:05 AM
                             [**2153-2-16**]  12:26 PM
                             [**2153-2-16**]  12:47 PM
                             [**2153-2-16**]  07:32 PM
                             [**2153-2-17**]  03:25 AM
                             [**2153-2-17**]  03:45 AM
                             [**2153-2-17**]  12:25 PM
                             [**2153-2-17**]  06:27 PM
                             [**2153-2-18**]  01:56 AM
                             [**2153-2-18**]  02:28 AM
   WBC
   7.0
   5.9
   8.1
   6.6
   5.8
   Hct
   25.6
   24.6
   26.3
   25.9
   25.3
   Plt
   30
   46
   32
   23
   74
   Cr
   1.7
   1.8
   1.6
   TCO2
   27
   26
   27
   28
   24
   Glucose
   169
   153
   188
   Other labs: PT / PTT / INR:18.9/29.8/1.7, CK / CKMB /
   Troponin-T:105/24/0.37, ALT / AST:35/42, Alk Phos / T Bili:152/5.5,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:182 mg/dL, Lactic Acid:2.3 mmol/L, LDH:707 IU/L, Ca++:7.0
   mg/dL, Mg++:3.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infracts and labs consistent with DIC.
   # Endocarditis: confirmed on echo meeting Duke Criteria.  PSH blood
   cultures with MSSA sensitive to vanco
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - continue vanc
    - blood cx qday
    - follow up speciation of all cultures
    - discuss nafcillin desensitization with ID
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli. Given history of IV drug use per report,
   there is concern for endocarditis. Blood pressures have been maintained
   with fluids only. CVP at 12 and lactate improving which implies
   improved perfusion.
   - Continue vanco; nafcillin desensitization as above
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate to document improvement
   - Follow up culture data here
   # Alkalosis: respiratory alkalosis, still overbreathing the vent, pCO2
   stable.  Initially unable to tolerate RSBI.  Potentially component of
   opioid withdrawal
 unclear when he stopped methadone
 up to 1 week
   without.  ABG roughly the same off propofol.  Mental status is
   improving, on CPAP trial.
    - continue to wean vent as MS improves
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs
   - Platelet goal is 30 and INR goal is < 1.4, will confirm w/ neurosurg
   # SAH: Unclear of spontaneous or in the setting of fall. Neuro exam
   nonfocal, and CT unchanged between here at OSH. Repeat imaging [**2-16**]
   showing continued interval slight decrease in density of SAH since
   earlier in the day. No aneursym seen but final pending reformats. MS is
   now improving, following some simple commands.
   - Appreciate Neurosurgery input
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   - Q2H neuro checks
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue AC ventilation with CPAP trials
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   - will keep intubated through nafcillin desensitization
   # NSTEMI: Elevated troponin in the setting of distress. Likely due to
   SAH and hemolysis. EKG unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Hep C: Unknown baseline. Will attempt to obtain records.
   # FEN: NS 125 cc/hr, replete electrolytes, holding tube feeds
   # Prophylaxis: no sqh given dic, IV ppi \, pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events notable for persistent fevers; persistent tachypnea, did not
   change with propofol.
   2U FFP and 2U Plt yesterday.
   Tm 103.1, Tc97.  P70-106 BP140/70 RR30s 99% on PSV 12/5 ABG7.52/29/105
   I/O: +1.5
   Exam notable for opening eyes to voice, ?tracking, intermittently
   following simple commands
 reportedly moved b/l toes, though not to my
   exam.  PERRL, scleral icterus.  Lungs CTA B/L, tachy, RR.  Abd
   distended and diffusely tender.  2+ edema.
   Labs notable for WBC 6 down from 8, Hct 25.3 (from 25) Plt 73, INR 1.7,
   Tbili 5.5, Alk phos 152, LDH 707, Trop 0.57.
   Na 147. Cr 1.6 (from 1.8).
   Micro OSH MSSA
   CXR reviewed, unchanged.
   Meds: RISS, protonix, vanc, PRN morphine.
   51 yo man with h/o IVDU here with endocarditis with multiple foci of
   septic emboli (lungs, spleen, likely brain, kidneys) and subdural
   hemorrhage, respiratory failure.  Not a candidate for surgical
   intervention given hemorrhage.  Today though mental status overall
   appears slightly better concerning abdominal exam,?abcess; also remains
   with rising LFTs, respiking fevers.  Agree with plan to abdominal CT
   and consider RUQ U/S, plan for nafcillin desensitization.  Severe resp
   alkalosis (?centrally driven, not really responsive to propofol or pain
   medication) and mental status possibly volume overload, barriers to
   extubation; would also consider keeping intubated for imaging and in
   setting of desensitization.  Remainder of plan as above.
   Pt is critically ill: CC time 40 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2153-2-18**] 17:36 ------

2153-02-19 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT Abd/pelvis obtained for concern of possible abscess, after Pt noted
   to be grimacing more to palpation of abdomen. No abscess seen on CT.
   Nafcillin desensitization ordered for Nafcillin tx of MSSA. Pt remains
   w/ slightly elevated troponins, CK flat. Transfused platelets, FFP per
   neurosurg recs in prep for angiography on Monday for eval of possible
   mycotic aneurysm. Pt to angio Monday AM. Ordered for mucomyst, Bicarb
   prior to procedure. CT Head shows stable subdural hematoma, ? evolving
   L basal ganglia infarct.
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-18**] 09:18 AM
   Nafcillin - [**2153-2-18**] 10:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-18**] 04:30 PM
   Morphine Sulfate - [**2153-2-19**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-19**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.2
C (97.1
   HR: 91 (86 - 101) bpm
   BP: 127/76(96) {127/69(92) - 164/83(110)} mmHg
   RR: 29 (22 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 15 (9 - 15)mmHg
   Total In:
                                                                  3,099 mL
                                                                     45 mL
   PO:
   TF:
                                                                    364 mL
                                                                     15 mL
   IVF:
                                                                  1,073 mL
   Blood products:
                                                                    572 mL
   Total out:
                                                                  1,544 mL
                                                                    260 mL
   Urine:
                                                                  1,544 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,555 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 524 (473 - 584) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.53/28/82.[**Numeric Identifier 143**]/22/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GEN: Intubated, Sedated
   HEENT:
   PULM: CTAB anteriorly
   CVS:
   ABD:
   EXT:
   Labs / Radiology
   40 K/uL
   8.5 g/dL
   219 mg/dL
   2.0 mg/dL
   22 mEq/L
   3.2 mEq/L
   111 mg/dL
   113 mEq/L
   146 mEq/L
   26.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2153-2-17**]  03:45 AM
                             [**2153-2-17**]  12:25 PM
                             [**2153-2-17**]  06:27 PM
                             [**2153-2-18**]  01:56 AM
                             [**2153-2-18**]  02:28 AM
                             [**2153-2-18**]  11:19 AM
                             [**2153-2-18**]  03:37 PM
                             [**2153-2-18**]  04:57 PM
                             [**2153-2-19**]  04:05 AM
                             [**2153-2-19**]  04:23 AM
   WBC
   6.6
   5.8
   7.5
   6.5
   Hct
   25.9
   25.3
   25.4
   26.0
   Plt
   23
   74
   45
   40
   Cr
   1.8
   1.6
   1.8
   2.0
   TropT
   0.57
   0.69
   TCO2
   27
   28
   24
   24
   24
   Glucose
   153
   188
   265
   219
   Other labs: PT / PTT / INR:19.0/28.7/1.7, CK / CKMB /
   Troponin-T:85/2/0.69, ALT / AST:25/33, Alk Phos / T Bili:167/7.2,
   Differential-Neuts:85.8 %, Lymph:10.3 %, Mono:2.9 %, Eos:0.3 %,
   Fibrinogen:170 mg/dL, Lactic Acid:1.8 mmol/L, LDH:707 IU/L, Ca++:6.7
   mg/dL, Mg++:3.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infarcts and labs consistent with DIC.
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - discontinue vancomycin
    - blood cx q day, begin to space as possible.
    - Nafcillin desentisization complete; likely discontinue vancomycin
   and continue nafcillin.
   - daily EKGs
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli. Given history of IV drug use per report,
   there was concern for endocarditis. Blood pressures have been
   maintained with fluids only. CVP at 12 and lactate improving which
   implies improved perfusion.
   - Continue nafcillin as above
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate to document improvement
   - Follow up culture data here
   # Alkalosis: respiratory alkalosis, still overbreathing the vent, pCO2
   stable.  Initially unable to tolerate RSBI.  Potentially component of
   opioid withdrawal
 unclear when he stopped methadone
 up to 1 week
   without.  ABG roughly the same off propofol.  Mental status is
   improving, on CPAP trial.
    - continue to wean vent as MS improves
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs
   - Platelet goal is 30 and INR goal is < 1.4, will confirm w/ neurosurg
   # SAH: Unclear of spontaneous or in the setting of fall. Neuro exam
   nonfocal, and CT unchanged between here at OSH. Repeat imaging [**2-16**]
   showing continued interval slight decrease in density of SAH since
   earlier in the day. No aneursym seen but final pending reformats. MS is
   now improving, following some simple commands.
   - Appreciate Neurosurgery input
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   - Q2H neuro checks
   # Acute Renal Failure
   - likely elevated after dye load yesterday, in conjunction with sepsis
   in low flow state.  Monitor UOP.
   - renally dose medications
   - check urine lytes/sediment/eophils.
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue PS ventilation, drop settings to [**7-1**] and then down to 5/5 as
   tolerated.
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI: Elevated troponin in the setting of distress. Likely due to
   SAH and hemolysis. EKG unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Hep C: Unknown baseline. Will attempt to obtain records.
   # FEN: NS 75 cc/hr, replete electrolytes, restart tube feeds as patient
   not to be extubated today.
   # Prophylaxis: no sqh given dic, IV ppi \, pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-20 07:12:00 Physician Resident Progress Note
TITLE: MICU progress note (medical student/resident/attending)
   Chief Complaint:
   24 Hour Events:
   Vancomycin was stopped and patient continues on nafcillin. Renal
   function worseing with creatinine increasing from 2.0 to 3.0; FeNa at
   0.4. Urine output initially improved with 500cc bolus, but repeat 500cc
   bolus x2 with limited improvement.  CT without ascites but showed
   increased bowel wall thickening, stool negative for C.diff.
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-19**] 08:00 AM
   Nafcillin - [**2153-2-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-19**] 04:15 PM
   Morphine Sulfate - [**2153-2-20**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-20**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.1
   HR: 91 (90 - 102) bpm
   BP: 126/63(84) {126/63(84) - 155/92(116)} mmHg
   RR: 28 (27 - 99) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 9 (7 - 12)mmHg
   Bladder pressure: 9 (9 - 12) mmHg
   Total In:
                                                                  3,130 mL
                                                                    211 mL
   PO:
   TF:
                                                                    245 mL
                                                                     55 mL
   IVF:
                                                                  2,585 mL
                                                                    136 mL
   Blood products:
   Total out:
                                                                  1,536 mL
                                                                    130 mL
   Urine:
                                                                    636 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 582 (478 - 582) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: 7.47/32/90.[**Numeric Identifier 126**]/21/0
   Ve: 16 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Pt intubated, sedated
   Peripheral Vascular: 2+ DP pulses
   Extrem:  Warm, 3+ pitting edema in left hand>right hand, LEs, scrotum;
   multiple splinter hemorrhages bilaterally in fingers;
   Neurologic: sedated, withdraws to abdominal palpation
   CV: RRR II/VI SEM
   Pulmonary: CTAB
   Abdomen: taut, distended, LUQ > RUQ tenderness, hypoactive BS
   Labs / Radiology
   60 K/uL
   9.2 g/dL
   184 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.1 mEq/L
   132 mg/dL
   115 mEq/L
   146 mEq/L
   27.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2153-2-18**]  02:28 AM
                             [**2153-2-18**]  11:19 AM
                             [**2153-2-18**]  03:37 PM
                             [**2153-2-18**]  04:57 PM
                             [**2153-2-19**]  04:05 AM
                             [**2153-2-19**]  04:23 AM
                             [**2153-2-19**]  03:09 PM
                             [**2153-2-19**]  03:52 PM
                             [**2153-2-20**]  02:45 AM
                             [**2153-2-20**]  03:00 AM
   WBC
   7.5
   6.5
   9.6
   11.5
   Hct
   25.4
   26.0
   28.4
   27.2
   Plt
   45
   40
   38
   60
   Cr
   1.8
   2.0
   2.4
   3.0
   TropT
   0.69
   0.69
   1.11
   1.19
   TCO2
   24
   24
   24
   25
   24
   Glucose
   265
   219
   190
   184
   Other labs: PT / PTT / INR:19.2/29.8/1.8, CK / CKMB /
   Troponin-T:45/2/1.19, ALT / AST:20/27, Alk Phos / T Bili:158/10.5,
   Differential-Neuts:94.2 %, Lymph:3.8 %, Mono:1.7 %, Eos:0.3 %,
   Fibrinogen:140 mg/dL, Lactic Acid:1.7 mmol/L, LDH:707 IU/L, Ca++:6.3
   mg/dL, Mg++:3.3 mg/dL, PO4:5.7 mg/dL. UA cloudy, 1.010, lg bld, neg
   nitr, tr leuk; [**5-3**] R, [**1-26**] W, occ bact; urine neg for eos [**2-19**]. Ulytes
   Na 17, Cr 70, BUN 621
   Micro: [**2-19**] C. Diff negative (final); [**2-20**] Blood cx X2 pending; [**2-18**]
   blood cx pending; [**2-16**] blood cx pending; [**2-16**] blood cx coag+ S. Aureus
   Images: [**2-19**] CXR: no change in cardiomediastinal silhouette/widespread
   parenchymal opacities; potentially slight increase in the extent of
   consolidation in the both lung bases. Small pleural effusion is most
   likely present, bilateral.
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infarcts and labs consistent with DIC.
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - Vancomycin stopped yesterday, now continues on nafcillin
   (desensitization complete)
    - blood cx q day, begin to space as possible
    - daily EKGs
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli; history of IV drug use. Blood pressures have
   been maintained with fluids only. CVP at 9 and lactate improving which
   implies improved perfusion.
   - Continue nafcillin as above
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate to document improvement
   - Follow up culture data here
   # Acute Renal Failure. Likely elevated after dye load, in conjunction
   with sepsis in low flow state, multiple likely septic renal infarcts.
   Monitor UOP. Creatinine rising, UOP remains low despite three boluses
   X500cc. Urine negative for Eos, FeNa 0.4.
   - renally dose medications
   - I L of IVF for possible prerenal etiology
 monitor UOP
   - Check urine sediment given endocarditis/concern for immune complex
   deposition
   - Renal consult
   - Not currently meeting criteria for urgent HD though will monitor
   volume status closely; considerations prior to line placement would
   include checking coags/platelets with FFP PRN
   #Cholestatic LFT abnormalities. LDH elevated, indirect bilirubinemia
   (as of [**2-16**]); [**2-15**] RUQ u/s negative for biliary thickening; lipase wnl
   on [**2-14**]
   - RUQ ultrasound
   - Add on direct bilirubin
   # Alkalosis: respiratory alkalosis, still overbreathing the vent, pCO2
   stable.  Initially unable to tolerate RSBI.  Potentially component of
   opioid withdrawal
 unclear when he stopped methadone
 up to 1 week
   without (wife states pt previously on methadone 30 and morphine 30
   qd).  ABG roughly the same off propofol.  Mental status is improving,
   on CPAP trial.
    - continue to wean vent as MS improves
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs [**Hospital1 7**]
   - Platelet goal is 30 and INR goal is < 1.4, will confirm w/ neurosurg
   # SAH/?left basal infarct: Unclear if spontaneous or in the setting of
   fall. Neuro exam nonfocal, and CT unchanged between here at OSH. Repeat
   imaging [**2-16**] showing continued interval slight decrease in density of
   SAH since earlier in the day. No aneursym seen but final pending
   reformats. MS improving, following some simple commands yesterday.
   - Appreciate Neurosurgery input
   - ID concerned for possible mycotic aneurysm, recommend angiogram
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   - Q2H neuro checks
 will confirm that patient able to move extremities
   when more alert
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue PS ventilation, drop settings to [**3-28**] as tolerated.
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI/troponinemia: Elevated troponin in the setting of distress,
   continues to rise. Likely due to SAH and hemolysis. EKG unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   #Abdominal pain/bowel wall thickening on CT (stable thickening of the
   ascending colon, new thickening of the sigmoid
   colon, possibly other portions. Ddx includes infectious and
   inflammatory etiologies, but ischemia cannot be excluded.)
   - C. Diff sent [**2-19**] negative (final)
   - Bladder pressure 9 makes abdominal compartment syndrome less likely
   # Head and neck cancer: Follow up with outpatient oncologist
   # Hep C: Unknown baseline. Will attempt to obtain records.
   # FEN: Bolus 1 L IVF, replete electrolytes, restart tube feeds as
   patient not to be extubated today.
   # Prophylaxis: no sqh given dic, IV ppi \, pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  On SS insulin
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-21 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Renal consult called, plan for beginning CVVH today after dialysis line
   placed by IR (patient to receive 2 units FFP prior given INR 2.2 and
   low plts).  Pt failed SBT this morning. RUQ U/S yesterday no change.
   Had potassium of 5.8 without EKG changes, on repeat testing in lab was
   actually found to be 4.8. No intervention.
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-19**] 08:00 AM
   Nafcillin - [**2153-2-21**] 12:11 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-2-21**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-21**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.6
C (97.9
   HR: 86 (79 - 98) bpm
   BP: 131/72(91) {99/51(65) - 133/72(91)} mmHg
   RR: 30 (17 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 90.5 kg
   Height: 68 Inch
   FSBG: [**Telephone/Fax (3) 14294**]/175
    CVP: 12 (1 - 13)mmHg
   Bladder pressure: 17 (17 - 17) mmHg
             Total In:
                                                                  2,418 mL
                                                                    950 mL
   PO:
             TF:
                                                                    148 mL
                                                                    200 mL
   IVF:
                                                                  2,200 mL
                                                                    650 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                     54 mL
   Urine:
                                                                    385 mL
                                                                     54 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,033 mL
                                                                    896 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 685 (576 - 739) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.40/28/91.[**Numeric Identifier 143**]/16/-5
   Ve: 22 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GEN: Intubated
   Pulm: coarse rhoncorous breath sounds bilaterally anteriorly, intubated
   Ext: increased edema in abdomen, extremities, scrotum;
   GU:  Foley in place with little dark yellow urine
   Abdomen: taut, distended, tender to mild palpation in upper quadrants,
   BS+, flexocele draining loose brown-yellow stool
   Peripheral Vascular: DP pulses 2+ bilaterally, but feet cooler than
   yesterday, R cooler than L (PT with good wave forms yesterday by
   Doppler)
   Skin:  some blistering/breakdown in L forearm likely [**12-26**] edema
   Neurologic: Responds to voice, wiggles toes L> R ,  moves upper
   extremities L>R, opens/closes eyes on command
   Labs / Radiology
   55 K/uL
   8.9 g/dL
   167 mg/dL
   3.6 mg/dL
   16 mEq/L
   5.2 mEq/L
   159 mg/dL
   113 mEq/L
   145 mEq/L
   26.4 %
   16.5 K/uL
        [image002.jpg]
                             [**2153-2-19**]  03:09 PM
                             [**2153-2-19**]  03:52 PM
                             [**2153-2-20**]  02:45 AM
                             [**2153-2-20**]  03:00 AM
                             [**2153-2-20**]  03:41 PM
                             [**2153-2-20**]  04:19 PM
                             [**2153-2-20**]  09:09 PM
                             [**2153-2-21**]  01:17 AM
                             [**2153-2-21**]  03:32 AM
                             [**2153-2-21**]  03:50 AM
   WBC
   9.6
   11.5
   17.6
   16.5
   Hct
   28.4
   27.2
   27.4
   26.4
   Plt
   38
   60
   62
   55
   Cr
   2.4
   3.0
   3.5
   3.6
   TropT
   1.11
   1.19
   1.56
   TCO2
   25
   24
   17
   16
   20
   18
   Glucose
   190
   184
   159
   167
   Other labs: PT / PTT / INR:22.9/34.9/2.2, CK / CKMB /
   Troponin-T:56/2/1.56, ALT / AST:33/84, Alk Phos / T Bili:149/12.4,
   Differential-Neuts:93.7 %, Lymph:3.1 %, Mono:3.1 %, Eos:0.1 %,
   Fibrinogen:122 mg/dL, Lactic Acid:3.5 mmol/L, LDH:912 IU/L, Ca++:5.5
   mg/dL, Mg++:3.5 mg/dL, PO4:9.6 mg/dL.  Complement C4 5.3 (low). Repeat
   urine eos negative. Repeat urine lytes: Na 42, Cr 59, BUN 476, osms
   373. Urine sediment per renal consult showed muddy br casts, coarse
   granular casts, 30-50 RBC, +TEC.
   Micro: [**2-20**] sputum GS contaminated sample. Repeat C Diff neg. No new
   positive blood cultures since [**2-16**].
   Imaging: RUQ U/S: 1. Stable appearance of the liver with no new intra-
   or extra-hepatic biliary  dilatation. Known cirrhosis. . Stable
   perihepatic ascites and massive splenomegaly measuring up to 20.6 cm.
   [**2-20**] EKG PR 144
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA currently
   receiving chemo and radiation was found by his sister today to be
   confused and complaining of chest pain, and found to have multiple
   infarcts and labs consistent with DIC.
   # Acute Renal Failure. Renal consult believes ARF likely from
   combination of dye load, sepsis in low flow state with third-spacing,
   and multiple likely septic renal infarcts, now also with evolving ATN
   (saw casts on urine sediment, FeNa increased from 0.4 to 1.5%). Low UOP
   despite repeat bolus yesterday and overnight, creatinine still rising.
   Urine negative for Eos X2
   - renally dose medications
   - HD ordered by renal consult for volume overload in setting of
   evolving ATN, to begin after temporary dialysis line placed by IR
   - ddavp, 2units plts prior to line placement (plt 55, INR 2.2)
   - Appreciate renal recs, continue to monitor for AIN on nafcillin,
   check urine protein/Cr, recheck eos; complement C4 5.3, C3 less than
   assay
   - Recheck K q6h prior to dialysis; check EKG if elevated
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - Continues on nafcillin (desensitized) (day 1 abx = [**2-15**], clear blood
   cultures since [**2-18**])
    - blood cx q day
    - daily EKGs
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli; history of IV drug use. Blood pressures have
   been maintained with fluids only. CVP at 12 and lactate initially
   improving but worse yesterday (however, ARF). WBC count trending up
   over past 24 hours. Has been pan-cultured, CXR without interval change.
   Line source considered.
   - Continue nafcillin as above
   - Continue fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate
   - Follow up cultures
   - Re-send sputum
   #Cholestatic LFT abnormalities. Worsening indirect bilirubinemia; [**2-15**]
   and [**2-20**] RUQ u/s negative for biliary dilatation; lipase wnl on [**2-14**].
   AST increasing. Likely intrahepatic cholestasis in setting of sepsis
   and multiorgan dysfunction.
   - Follow for now; trend LFTs
   - consider lactulose if worsening mental status
   # Alkalosis: respiratory alkalosis, still overbreathing the vent, pCO2
   stable.  Uable to tolerate SBT.  Potentially component of opioid
   withdrawal
 unclear when he stopped methadone
 up to 1 week without
   (wife states pt previously on methadone 30 and morphine 30 qd).  ABG
   roughly the same off propofol.  Mental status is improving.
    - continue to wean vent as MS improves once volume status normalized
   after HD
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with occasional schistocytes on smear. Thrombocytopenia may be due to
   liver disease or DIC.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs [**Hospital1 7**]
   - Platelet goal is 30 and INR goal is < 1.4
   #Abdominal pain/bowel wall thickening on CT (stable thickening of the
   ascending colon, new thickening of the sigmoid
   colon, possibly other portions. Ddx includes infectious and
   inflammatory etiologies, but ischemia cannot be excluded.)
   - C. Diff sent [**2-19**] and [**2-20**] negative (final); one more stool culture
   to be sent
   - Bladder pressure 17 increased from 9 yesterday
   # SAH/?left basal infarct: Unclear if spontaneous or in the setting of
   fall. Neuro exam nonfocal, and CT unchanged between here at OSH. Repeat
   imaging [**2-16**] showing continued interval slight decrease in density of
   SAH since earlier in the day. No aneursym seen. MS stable, following
   some simple commands yesterday and this morning.
   - Appreciate Neurosurgery input
   - ID concerned for possible mycotic aneurysm, recommend angiogram
   (reconsider after dialyzed)
   - Goal INR 1.4, Plts 50
   - Goal SBP less than 150
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue PS ventilation, drop settings to [**3-28**] as tolerated.
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI/troponinemia: Elevated troponin in the setting of distress,
   continues to rise. Likely due to SAH and hemolysis and sepsis. EKG
   unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Comfort: Morphine for pain/dypsnea
   # Hep C: Unknown baseline. Will attempt to obtain records. HCV VL 743K
   on [**2-17**].
   # FEN: Replete electrolytes (not K or phos as has ARF), tube feeds on
   hold for procedure; nutrition recs to restart TF with Novasource Renal
   35 mL/h4 + 28g Beneprotein, begin at 10 mL/hr and increase by 10 ml/hr
   q6-8 hrs as tolerated. Tighten SSI.
   # Prophylaxis: no sqh given dic, IV ppi \ pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement

2153-02-22 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2153-2-21**] 09:00 AM
 EKG - At [**2153-2-21**] 10:30 AM
 SPUTUM CULTURE - At [**2153-2-21**] 12:00 PM
 PARACENTESIS - At [**2153-2-21**] 04:07 PM
   Patient had HD line placed by IR, began CVVH [**2-21**] am. Diagnostic
   paracentesis, micro pending; 4275 W, 8700 R, 91P/2L/7/macroph, prot
   1.5, Glu 150, LDH 2945; serum glu 153/LDH 912. Lactate elevated to 5.6
   at noon, trended down to 2.9 this am. Hypocalcemic so on calcium
   sliding scale. Sputum resent (contaminated). Neurosurg fellow to visit,
   tentative plan for angio Friday am (will need mucomyst/ bicarb prior).
   Platelets down to 29, fibrinogen 117, coags climbing.
   KUB: Very limited study with poor penetration and motion artifacts.
   Bowel gas pattern appears non-obstructive with air seen in non-dilated
   loops of large bowel. There is no free intraperitoneal air or
   pneumatosis.
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-2-19**] 08:00 AM
   Nafcillin - [**2153-2-22**] 04:41 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2153-2-21**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-22**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 88 (79 - 92) bpm
   BP: 105/56(71) {96/47(62) - 131/83(99)} mmHg
   RR: 13 (11 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 9 (6 - 24)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  4,005 mL
                                                                    980 mL
   PO:
   TF:
                                                                    585 mL
                                                                    267 mL
   IVF:
                                                                  2,501 mL
                                                                    712 mL
   Blood products:
                                                                    589 mL
   Total out:
                                                                  3,247 mL
                                                                  2,564 mL
   Urine:
                                                                    116 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                    758 mL
                                                                 -1,584 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 939 (724 - 939) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 19
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.39/34/174/18/-3
   Ve: 10.2 L/min
   PaO2 / FiO2: 348
   Physical Examination
   Extrem: DP 2+ on left and 1+ on right; right great toe and 5^th toe
   purple c/w evolving thrombotic event
   Gen: Increased scrotal edema, continued LE edema; pt warm and on
   bear-hugger
   Neurologic: Eyes open, follows some commands
   Ab: taut, distended, tender
   Pulm: CTAB anteriorly, decreased breath sounds at bases
   CV: RRR II/VI SEM throughout
   Labs / Radiology
   29 K/uL
   8.2 g/dL
   191 mg/dL
   2.4 mg/dL
   18 mEq/L
   4.6 mEq/L
   106 mg/dL
   106 mEq/L
   139 mEq/L
   24.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2153-2-21**]  03:32 AM
                             [**2153-2-21**]  03:50 AM
                             [**2153-2-21**]  11:37 AM
                             [**2153-2-21**]  12:04 PM
                             [**2153-2-21**]  04:17 PM
                             [**2153-2-21**]  04:35 PM
                             [**2153-2-21**]  09:29 PM
                             [**2153-2-21**]  09:51 PM
                             [**2153-2-22**]  03:53 AM
                             [**2153-2-22**]  04:07 AM
   WBC
   16.5
   15.8
   17.8
   14.9
   Hct
   26.4
   25.7
   26.6
   24.2
   Plt
   55
   49
   56
   29
   Cr
   3.6
   3.8
   3.6
   2.4
   TropT
   1.56
   TCO2
   18
   14
   15
   20
   21
   Glucose
   167
   173
   153
   189
   191
   Other labs: PT / PTT / INR:25.4/37.9/2.4, CK / CKMB /
   Troponin-T:56/2/1.56, ALT / AST:55/133, Alk Phos / T Bili:161/15.6,
   Differential-Neuts:93.7 %, Lymph:3.1 %, Mono:3.1 %, Eos:0.1 %,
   Fibrinogen:117 mg/dL, Lactic Acid:2.9 mmol/L, LDH:866 IU/L, Ca++:6.7
   mg/dL, Mg++:2.8 mg/dL, PO4:6.6 mg/dL. FDP 80-160. Free ca 0.92.
   Micro: Sputum culture contaminated. Ascites fluid pending. GS with PMN
   1+, no organisms.
   Imaging: KUB as above, no free air/signs of obstruction.
   CXR: pending
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA was found by
   his sister to be confused and complaining of chest pain, and found to
   have multiple infarcts, MSSA bacteremia, endocarditis, labs consistent
   with DIC, SAH, now with ARF.
   # Acute Renal Failure. Renal team believes ARF likely from combination
   of dye load, sepsis in low flow state with third-spacing, and multiple
   likely septic renal infarcts, now also with evolving ATN (saw casts on
   urine sediment, FeNa increased from 0.4 to 1.5%). Urine negative for
   Eos X2. Continues with low UOP. Now on CVVH since [**2-21**], rate 100-200 cc
   negative/hr. Complement low; ?immune complex GLN, but may be low solely
   in setting of coagulopathy/embolizations.
   - renally dose medications: Nafcillin dose in setting of LFT changes
   and CVVH: "Not dialyzable (0% to 5%) via hemodialysis. Supplemental
   dose is not necessary with hemo- or peritoneal dialysis or continuous
   arteriovenous or venovenous hemofiltration; in patients with both
   hepatic and renal impairment, modification of dosage may be necessary;
   no data available."
   - Appreciate renal recs, continue to monitor for AIN on nafcillin
   - Follow electrolytes, replete Ca as needed (on SS)
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with schistocytes on smear. Thrombocytopenia may be due to liver
   disease or DIC. No evidence of bleeding.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs [**Hospital1 7**]
   - Platelet goal is 30 and INR goal is < 1.4; consider FFP/cryo if
   fibrinogen <100 and bleeding
   - discuss with neurosurgery coagulation threshold for angio
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - Continues on nafcillin (desensitized) (day 1 abx = [**2-15**], clear blood
   cultures since [**2-18**])
    - blood cx q day
    - daily EKGs
   -  repeat echo
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli; history of IV drug use. Blood pressures have
   been maintained with fluids only. CVP at 9 and lactate improving now on
   CVVH. CBC trending up, febrile [**2-20**]; pancultured. Line source
   considered.
   - Continue nafcillin as above
   - Continue CVVH/fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate
   - Follow up cultures
   - ID recommend repeat TEE if pt re-spikes with no clear source.
   - Consider removing CVL and re-seating Aline if pt spikes again
   # SBP. Pt tapped, ascites with prominent neutrophils, culture pending.
   - Broaden abx: start zosyn CVVH dosing, and give albumin 1.5 g/kg X 1
   and 1 g/kg on day 3
   #Cholestatic LFT abnormalities. Worsening indirect bilirubinemia; [**2-15**]
   and [**2-20**] RUQ u/s negative for biliary dilatation; lipase wnl on [**2-14**].
   AST increasing. Likely intrahepatic cholestasis in setting of sepsis
   and multiorgan dysfunction.
   - Follow for now; trend LFTs
   - Lactulose begun [**2-21**]
   #Abdominal pain/bowel wall thickening on CT (stable thickening of the
   ascending colon, new thickening of the sigmoid
   colon, possibly other portions. Ddx includes infectious and
   inflammatory etiologies, but ischemia cannot be excluded.)
   - C. Diff sent [**2-19**] and [**2-20**] negative (final); one more stool culture
   to be sent
   # SAH/?left basal infarct: Unclear if spontaneous or in the setting of
   fall. Neuro exam nonfocal, and CT unchanged between here at OSH. Repeat
   imaging [**2-16**] showing continued interval slight decrease in density of
   SAH since earlier in the day. No aneursym seen. MS stable, following
   simple commands.
   - Appreciate Neurosurgery input; neurosurg fellow to come today to eval
   with tentative plan for angio Friday [**1-23**]
   - ID concerned for possible mycotic aneurysm, recommend angiogram
   (reconsider after dialyzed)
   - Goal INR 1.4, Plts 50, goal SBP less than 150
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue PS ventilation, drop settings to [**3-28**] as tolerated.
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI/troponinemia: Elevated troponin in the setting of distress,
   continues to rise. Likely due to SAH and hemolysis and sepsis. EKG
   unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Comfort: Morphine for pain/dypsnea
   # Hep C: Unknown baseline. HCV VL 743K on [**2-17**].
   # FEN: Replete electrolytes, tube feeds on hold for procedure; on
   TF/SSI.
   # Prophylaxis: no sqh given dic, IV ppi \ pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement

2153-02-23 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2153-2-22**] 03:00 PM
 BLOOD CULTURED - At [**2153-2-22**] 04:30 PM
   - d/c nafcillin and started on vancomycin (CVVHD protocol) and zosyn
   - ID recs: agree with antibiotic choice, consider abdominal CT to
   evaluate for gut injury in pt with SBP, follow LFT daily
   - EKG: PR 146ms
   - Did not get Echo
   - PM DIC labs stable
   - Plan for angio in AM; got 1 dose of NAC overnight, RX for 2nd dose
   1hr prior to angio
   - Episode of hypotension (SBP in 60s), awakened and bolus 500cc with
   return of systolic blood pressures to 110s.
   - Renal consult [**2-23**]: will resume CVVHD after pt is back from angio;
   will try to remove fluid as pt tolerates to 200 ml/hr; continue to use
   b32k2 for replacement, b22k4 for dialysate; consider b32k2 to b22k4 for
   replacement if ph remains high; pt has respiratory alkalosis; no
   anticoagulants; check vanc trough level daily to guide dose, goal 15-20
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2153-2-22**] 08:00 AM
   Vancomycin - [**2153-2-22**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2153-2-22**] 10:05 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-2-22**] 04:00 PM
   Morphine Sulfate - [**2153-2-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-23**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 92 (84 - 100) bpm
   BP: 121/55(72) {92/44(60) - 124/64(82)} mmHg
   RR: 21 (12 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  3,765 mL
                                                                    714 mL
   PO:
   TF:
                                                                  1,025 mL
                                                                     52 mL
   IVF:
                                                                  2,660 mL
                                                                    573 mL
   Blood products:
   Total out:
                                                                  7,394 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,629 mL
                                                                    714 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 705 (701 - 812) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.43/31/116/19/-2
   Ve: 10.9 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   33 K/uL
   7.7 g/dL
   181 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.4 mEq/L
   86 mg/dL
   102 mEq/L
   135 mEq/L
   23.7 %
   16.2 K/uL
        [image002.jpg]
                             [**2153-2-21**]  09:51 PM
                             [**2153-2-22**]  03:53 AM
                             [**2153-2-22**]  04:07 AM
                             [**2153-2-22**]  07:49 AM
                             [**2153-2-22**]  09:33 AM
                             [**2153-2-22**]  04:40 PM
                             [**2153-2-22**]  04:47 PM
                             [**2153-2-22**]  09:37 PM
                             [**2153-2-22**]  09:58 PM
                             [**2153-2-23**]  03:05 AM
   WBC
   14.9
   16.9
   20.7
   16.2
   Hct
   24.2
   26.7
   25.2
   23.7
   Plt
   29
   53
   38
   33
   Cr
   2.4
   2.6
   1.5
   2.4
   TropT
   1.24
   TCO2
   20
   21
   21
   22
   21
   Glucose
   191
   193
   165
   181
   Other labs: PT / PTT / INR:24.7/41.4/2.4, CK / CKMB /
   Troponin-T:56/1/1.24, ALT / AST:98/260, Alk Phos / T Bili:159/16.4,
   Differential-Neuts:94.0 %, Band:0.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:233 mg/dL FDP 80-160, Lactic Acid:2.6 mmol/L, Albumin:2.0
   g/dL, LDH:967 IU/L, Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:5.8 mg/dL
   Micro: [**2-22**] C diff neg (3^rd test)
   Ascites fluid with NGTD
   No new positive bl cx since [**2-16**]
   CXR - pending
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA was found by
   his sister to be confused and complaining of chest pain, and found to
   have multiple infarcts, MSSA bacteremia, endocarditis, labs consistent
   with DIC, SAH, now with ARF.
   # Acute Renal Failure. Renal team believes ARF likely from combination
   of dye load, sepsis in low flow state with third-spacing, and multiple
   likely septic renal infarcts, now also with evolving ATN (saw casts on
   urine sediment, FeNa increased from 0.4 to 1.5%). Urine negative for
   Eos X2. Continues with low UOP. Now on CVVH since [**2-21**], rate 100-200 cc
   negative/hr. Complement low; ?immune complex GLN, but may be low solely
   in setting of coagulopathy/embolizations.
   - renally dose medications: Nafcillin dose in setting of LFT changes
   and CVVH: "Not dialyzable (0% to 5%) via hemodialysis. Supplemental
   dose is not necessary with hemo- or peritoneal dialysis or continuous
   arteriovenous or venovenous hemofiltration; in patients with both
   hepatic and renal impairment, modification of dosage may be necessary;
   no data available."
   - Appreciate renal recs, continue to monitor for AIN on nafcillin
   - Follow electrolytes, replete Ca as needed (on SS)
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. Supported by elevated d-dimer, ptt, pt and low fibrinogen,
   with schistocytes on smear. Thrombocytopenia may be due to liver
   disease or DIC. No evidence of bleeding.
   - Continue supportive care
   - Treat sepsis as above
   - Cycle DIC labs [**Hospital1 7**]
   - Platelet goal is 30 and INR goal is < 1.4; consider FFP/cryo if
   fibrinogen <100 and bleeding
   - discuss with neurosurgery coagulation threshold for angio
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - Continues on nafcillin (desensitized) (day 1 abx = [**2-15**], clear blood
   cultures since [**2-18**])
    - blood cx q day
    - daily EKGs
   -  repeat echo
   # Sepsis with Septic Emboli: Meets sepsis criteria fever, increase RR,
   and likely septic emboli; history of IV drug use. Blood pressures have
   been maintained with fluids only. CVP at 9 and lactate improving now on
   CVVH. CBC trending up, febrile [**2-20**]; pancultured. Line source
   considered.
   - Continue nafcillin as above
   - Continue CVVH/fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate
   - Follow up cultures
   - ID recommend repeat TEE if pt re-spikes with no clear source.
   - Consider removing CVL and re-seating Aline if pt spikes again
   # SBP. Pt tapped, ascites with prominent neutrophils, culture pending.
   - Broaden abx: start zosyn CVVH dosing, and give albumin 1.5 g/kg X 1
   and 1 g/kg on day 3
   #Cholestatic LFT abnormalities. Worsening indirect bilirubinemia; [**2-15**]
   and [**2-20**] RUQ u/s negative for biliary dilatation; lipase wnl on [**2-14**].
   AST increasing. Likely intrahepatic cholestasis in setting of sepsis
   and multiorgan dysfunction.
   - Follow for now; trend LFTs
   - Lactulose begun [**2-21**]
   #Abdominal pain/bowel wall thickening on CT (stable thickening of the
   ascending colon, new thickening of the sigmoid
   colon, possibly other portions. Ddx includes infectious and
   inflammatory etiologies, but ischemia cannot be excluded.)
   - C. Diff sent [**2-19**] and [**2-20**] negative (final); one more stool culture
   to be sent
   # SAH/?left basal infarct: Unclear if spontaneous or in the setting of
   fall. Neuro exam nonfocal, and CT unchanged between here at OSH. Repeat
   imaging [**2-16**] showing continued interval slight decrease in density of
   SAH since earlier in the day. No aneursym seen. MS stable, following
   simple commands.
   - Appreciate Neurosurgery input; neurosurg fellow to come today to eval
   with tentative plan for angio Friday [**1-23**]
   - ID concerned for possible mycotic aneurysm, recommend angiogram
   (reconsider after dialyzed)
   - Goal INR 1.4, Plts 50, goal SBP less than 150
   # Respiratory failure: Intubated for poor mental status. Oxygenating
   and ventilating well.
   - Continue PS ventilation, drop settings to [**3-28**] as tolerated.
   - Propofol as needed for sedation, currently on hold
   - HOB evaluation, mouth care
   # NSTEMI/troponinemia: Elevated troponin in the setting of distress,
   continues to rise. Likely due to SAH and hemolysis and sepsis. EKG
   unremarkable.
   - Trend CE
   - Tele
   - No heparin or aspirin given above hematologic derangements
   # Head and neck cancer: Follow up with outpatient oncologist
   # Comfort: Morphine for pain/dypsnea
   # Hep C: Unknown baseline. HCV VL 743K on [**2-17**].
   # FEN: Replete electrolytes, tube feeds on hold for procedure (restart
   with Novasource renal goal 35ml/hr X 24 hr with 28 g beneprotein per
   nutrition note [**2-22**]); on TF/SSI.
   # Prophylaxis: no sqh given dic, IV ppi \ pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   20 Gauge - [**2153-2-15**] 09:42 PM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   Dialysis Catheter - [**2153-2-21**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2153-02-24 07:20:00 Physician Resident Progress Note
Chief Complaint: Endocarditis
   24 Hour Events:
 EKG - At [**2153-2-23**] 10:14 AM
 BLOOD CULTURED - At [**2153-2-23**] 06:00 PM
 INVASIVE VENTILATION - STOP [**2153-2-23**] 06:10 PM
   [**2153-2-23**] Events:
   - CT abd/pelvis w/contrast to assess for abscess in setting of
   peritonitis
   - CTA head to assess for interval change of SAH (?mycotic aneurysm)
   with no change in aneurysm.
   - Did not get echo yet
   - PICC to be placed when afebrile, then can take out central line
   - EXTUBATED
   Allergies:
   Penicillins
   Unknown;
   Ampicillin
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2153-2-22**] 08:00 AM
   Vancomycin - [**2153-2-23**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2153-2-24**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-2-24**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**54**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 35.7
C (96.3
   HR: 85 (75 - 95) bpm
   BP: 148/72(93) {106/45(61) - 150/73(94)} mmHg
   RR: 27 (17 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101 kg (admission): 90.5 kg
   Height: 68 Inch
    CVP: 7 (5 - 8)mmHg
   Total In:
                                                                  3,580 mL
                                                                  1,434 mL
   PO:
   TF:
                                                                    127 mL
   IVF:
                                                                  1,797 mL
                                                                  1,405 mL
   Blood products:
                                                                  1,516 mL
                                                                     29 mL
   Total out:
                                                                  2,980 mL
                                                                  2,278 mL
   Urine:
                                                                     10 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                   -844 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 615 (615 - 651) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.46/28/74/18/-1
   Ve: 14 L/min
   PaO2 / FiO2: 185
   Physical Examination
   Gen: Tachypneic.
   HEENT: Significant Scleral icterus. MMM.
   Pulm: Bilateral diffuse rhonchi
   CVS: RRR with normal S1 + S2.
   ABD: Soft/NT/ND
   Ext: 1+ pitting edema bilaterally. Marked skin lesions distal lower
   extremities and feet c/w embolic phenomenon/necrosis.
   Skin: marked jaundice
   Labs / Radiology
   41 K/uL
   11.0 g/dL
   116 mg/dL
   2.1 mg/dL
   18 mEq/L
   4.3 mEq/L
   72 mg/dL
   102 mEq/L
   135 mEq/L
   32.0 %
   13.7 K/uL
        [image002.jpg]
                             [**2153-2-22**]  09:58 PM
                             [**2153-2-23**]  03:05 AM
                             [**2153-2-23**]  08:29 AM
                             [**2153-2-23**]  01:02 PM
                             [**2153-2-23**]  03:42 PM
                             [**2153-2-23**]  06:52 PM
                             [**2153-2-23**]  09:52 PM
                             [**2153-2-23**]  09:54 PM
                             [**2153-2-24**]  04:00 AM
                             [**2153-2-24**]  04:09 AM
   WBC
   16.2
   13.1
   13.7
   Hct
   23.7
   20.7
   32.0
   Plt
   33
   123
   60
   41
   Cr
   2.4
   3.0
   2.1
   TCO2
   21
   21
   21
   20
   21
   Glucose
   181
   170
   160
   116
   Other labs: PT / PTT / INR:21.1/40.7/2.0, CK / CKMB /
   Troponin-T:56/1/1.24, ALT / AST:107/185, Alk Phos / T Bili:151/22.9,
   Differential-Neuts:94.7 %, Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.1
   %, Fibrinogen:157 mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.0 g/dL,
   LDH:669 IU/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   51 year old male with h/o hepatitis C and head and neck CA was found by
   his sister to be confused and complaining of chest pain, and found to
   have multiple infarcts, MSSA bacteremia, endocarditis, labs consistent
   with DIC, SAH, now with ARF.
   # Acute Renal Failure. Renal team believes ARF likely from combination
   of dye load, sepsis in low flow state with third-spacing, and multiple
   likely septic renal infarcts, now also with evolving ATN. Urine
   negative for Eos X2. Continues with low UOP to anuria. Now on CVVH
   since [**2-21**], rate 100-200 cc negative/hr.
   - Renally dose medications
   - Appreciate renal recs: check vanc trough level daily to guide dose,
   goal 15-20; will resume CVVH when returns from procedure
   - Follow electrolytes, replete Ca as needed (on SS)
   # Respiratory failure: Initially intubated for poor MS, now passed SBT
   well on [**2-22**]. Oxygenating and ventilating well, though quite Tachypneic
   today. Extubated yesterday [**2-23**].
   - Trend ABG off of vent
   - HOB evaluation, mouth care
   - Pt extubated; monitor respiratory status closely
   # DIC: Likely in the setting of sepsis, but also in the setting of
   malignancy. No evidence of bleeding.
   - Continue supportive care
   - Treat sepsis as below
   - Cycle DIC labs daily
   - Platelet goal is >20 and INR goal is < 1.8 for any interventional
   procedure
   - Consider FFP/cryo if fibrinogen <100 and bleeding
   # Anemia
 decreasing hematocrit with 9 point drop over 2 days.
   Patient s/p transfusion of 3 units pRBCs yesterday and HCT bumped
   appropriately to 32.  Blood loss likely due to clotted blood being lost
   in CVVH.
   - Monitor HCT [**Hospital1 7**]
   - Guaiac stools
   - CT yesterday with no RP bleed or source of bleeding in abd/head.
   # Endocarditis: confirmed on echo (aortic/tricuspid) meeting Duke
   Criteria.  PSH blood cultures with MSSA sensitive to vanco/nafcillin
    - ID consulting, recs appreciated;  Had recommending discontinuing
   Zosyn in favor of Cipro.  For now, will continue Zosyn for a total
   course of 8 days. If stable, will transition to cipro for 14 days.
    - CT surgery consulted, appreciate recs, now signed off pending
   further clinical development
    - Vanc/zosyn for abx now given SBP (day 1 abx = [**2-15**], clear blood
   cultures since [**2-18**])
    - blood cx q day
    - daily EKGs
   -  repeat echo
   # Sepsis with Septic Emboli: Blood pressures have been maintained with
   fluids only. Febrile [**2-20**]; pancultured; since afebrile but on CVVH. Pt
   with SBP by tap. Line source, PNA also considered.
   - Continue vanc/zosyn
   - Continue CVVH/fluids with Goal MAP over 60 and CVP 8-12
   - Trend lactate
   - Follow up cultures
   - Consider removing CVL and re-seating Aline if pt spikes again
   - will need PICC when afebrile
   # SBP. Pt tapped, ascites with prominent neutrophils, culture NGTD.
   - Broaden abx: zosyn CVVH dosing day 1 = [**2-22**] (with vanc for MSSA
   coverage). Again, ID recommending de-escalation of abx by discontinuing
   Zosyn.  Previous de-escalation attempts have resulted in clinical
   worsening; will continue zosyn for 8 day course and then transition to
   ciprofloxacin.
   - Follow cultures
   # NSTEMI/troponinemia: Elevated troponin in the setting of distress,
   SBP. Likely due to SAH and hemolysis and sepsis. EKG unremarkable.
   Stopped trending CE after troponin peak.
   - Tele
   - Re-check CE in setting of new cardiac symptoms
   - No heparin or aspirin given above hematologic derangements
   #Cholestatic LFT abnormalities. Direct bilirubinemia; [**2-15**] and [**2-20**] RUQ
   u/s negative for biliary dilatation; lipase wnl on [**2-14**]. Likely
   intrahepatic cholestasis in setting of sepsis and multiorgan
   dysfunction. Bilirubin continues to rise.
   - Follow for now; trend LFTs
   - Lactulose begun [**2-21**]
   #Abdominal pain resolving, bowel wall thickening on CT (stable
   thickening of the ascending colon, new thickening of the sigmoid
   colon, possibly other portions. Ddx includes infectious and
   inflammatory etiologies, but ischemia cannot be excluded.)
   - C. Diff negative X3
   # SAH/?left basal infarct: Unclear if spontaneous or in the setting of
   fall. Neuro exam nonfocal, and CT unchanged between here at OSH. Repeat
   imaging [**2-16**] showing continued interval slight decrease in density of
   SAH since earlier in the day. No aneursym seen. MS stable, following
   simple commands.
   - Appreciate Neurosurgery input
   - f/u final CT-A read
   # Head and neck cancer: Follow up with outpatient oncologist
   # Comfort: Morphine for pain/dypsnea
   # Hep C: Unknown baseline. HCV VL 743K on [**2-17**].
   # FEN: Replete electrolytes, tube feeds on hold for procedure (restart
   with Novasource renal goal 35ml/hr X 24 hr with 28 g beneprotein per
   nutrition note [**2-22**]); on SSI.
   # Prophylaxis: no sqh given dic, IV ppi \ pneumoboots
   # Access: Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   # Communication: Next of [**First Name8 (NamePattern2) **] [**First Name5 (NamePattern1) **] [**Known lastname 14162**] [**Telephone/Fax (1) 14163**]
   # Code:  Full presumed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-2-15**] 01:08 AM
   Arterial Line - [**2153-2-15**] 01:09 AM
   Dialysis Catheter - [**2153-2-21**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: